US08022223B2
Step A: Preparation of 1,2-bis(2-(trifluoromethyl)phenyl)disulfane:
A solution of 2-(trifluoromethyl)benzenethiol (0.185 mL, 1.40 mmol) in wet acetonitrile (1:5 water/acetonitrile) was added Iodine (0.178 g, 0.702 mmol) and allowed to stir over night at room temperature. The reaction was concentrated, then diluted with EtOAc and quenched with aqueous sodium thiosulfate, extracted and dried organic with brine, Na2SO4, filtered and concentrated to afford the title compound (219 mg, 44% yield) as a colorless oil.

reactant | 2-(trifluoromethyl)benzenethiol | 1.40 mmol, 0.185 mL | FC(C1=C(C=CC=C1)S)(F)F | C7H5F3S
reactant | Iodine | 0.702 mmol, 0.178 g | II | I2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,2-bis(2-(trifluoromethyl)phenyl)disulfane | 219 mg, 44% yield | FC(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(F)(F)F)(F)F | C14H8F6S2
